US08013156B2
A mixture of 1-[2-(Pyridin-4-ylmethoxy)-phenyl]-piperazine dihydrochloride (0.3 mmol, 100 mg), DCM (5 ml), TEA (1 mmol, 139 ul), and 3,5-bis(trifluoromethyl)phenyl isocyanate (0.6 mmol, 104 ul) was stirred at room temperature overnight. The mixture was concentrated in vacuo and purified on silica column using 80% EtOAc/hexanes to give N-[3,5-bis(trifluoromethyl)phenyl]-4-{2-[(pyridin-4-ylmethyl)oxy]phenyl}piperazine-1-carboxamide. 1H NMR (CDCl3) 8.599-8.586 (d, 2H), 7.855 (s, 2H), 7.559-7.452 (d, 2H), 7.390-7.377 (d, 2H), 7.021-6.888 (m, 4H), 5.146 (s, 2H), 3.728-3.704 (m, 4H), 3.149-3.125 (m, 4H) ppm.

reactant | 1-[2-(Pyridin-4-ylmethoxy)-phenyl]-piperazine dihydrochloride | 0.3 mmol, 100 mg | Cl.Cl.N1=CC=C(C=C1)COC1=C(C=CC=C1)N1CCNCC1
reactant | 3,5-bis(trifluoromethyl)phenyl isocyanate | 0.6 mmol, 104 ul | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=O)(F)F | C9H3F6NO
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[3,5-bis(trifluoromethyl)phenyl]-4-{2-[(pyridin-4-ylmethyl)oxy]phenyl}piperazine-1-carboxamide | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OCC1=CC=NC=C1)(F)F | C25H22F6N4O2
